US08034812B2
A mixture of methyl 2-mercaptobenzoate (1030 mg, 6.1 mmol), N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (1.0 g, 3.1 mmol), potassium carbonate (1050 mg, 7.6 mmol) and N,N-dimethylformamide (10 mL) was stirred at 80° C. for 7 hr. The mixture was evaporated under reduced pressure, and ethyl acetate/tetrahydrofuran and water were added to the residue. The aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×3). Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=40/60→90/10) to give methyl 2-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)benzoate (200 mg, 18%) as a brown solid.

reactant | methyl 2-mercaptobenzoate | 6.1 mmol, 1030 mg | SC1=C(C(=O)OC)C=CC=C1 | C8H8O2S
reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 3.1 mmol, 1.0 g | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | potassium carbonate | 7.6 mmol, 1050 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | methyl 2-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)benzoate | 200 mg, 18% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)SC2=C(C(=O)OC)C=CC=C2)C1 | C18H16N4O3S
